US06114532
b. methyl [1-(4-methylamino-3-amino-benzoyl)-cyclohexyl]-acetate
Prepared analogously to Example 1c from methyl [1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetate and palladium on activated charcoal/hydrogen in methanol.

reactant | methyl [1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetate | CNC1=C(C=C(C(=O)C2(CCCCC2)CC(=O)OC)C=C1)[N+](=O)[O-] | C17H22N2O5
solvent | methanol | CO | CH4O
catalyst | palladium on activated charcoal hydrogen | [Pd].[H][H]
product | methyl [1-(4-methylamino-3-amino-benzoyl)-cyclohexyl]-acetate | CNC1=C(C=C(C(=O)C2(CCCCC2)CC(=O)OC)C=C1)N | C17H24N2O3
